data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3363,3821,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6](=[O:7])[C:8](=[NH+:9][N-:10][C:11]#[N:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:10]([C:11]#[N:12])[NH:9][C:8]1([C:6]([CH3:5])=[O:7])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,22.936967554476904,-10.48248751161578
1458,1606,[CH3:11][NH:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[NH+:18][C-:19]([C:20](=[O:21])[NH:22][CH3:23])[C:24](=[O:25])[NH:26][CH3:27].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:19]([C:20](=[O:21])[NH:22][CH3:23])([C:24](=[O:25])[NH:26][CH3:27])[NH:18][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:16]#[N:17],water,298.15,20.01853109048311,-15.492986828956552
4032,4617,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([C:10]([CH3:11])=[O:12])[N+:13]([CH3:14])=[CH:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:10]([CH3:11])=[O:12])[N:13]([CH3:14])[CH:15]1[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,27.074554596451343,-21.57352523033461
3373,3832,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([C:10]#[N:11])[N+:12]([CH3:13])=[C:14]([C:15]#[N:16])[C:17]#[N:18]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:10]#[N:11])[N:12]([CH3:13])[C:14]1([C:15]#[N:16])[C:17]#[N:18],water,298.15,23.909693030139906,-27.514398810827828
4334,4955,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH-:15][O+:16]=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:15]([C:13]([NH:12][CH3:11])=[O:14])[O:16][CH:17]2[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,9.937054168312304,-45.41984641850156
4892,5576,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18]#[N:19])[C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([C:18]#[N:19])([C:20]#[N:21])[O:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,4.885808429742121,-36.472936002631954
3410,3879,[CH2:1]=[CH2:2].[CH3:3][C:4](=[O:5])[C:6]([CH3:7])=[O+:8][C-:9]([C:10]([CH3:11])=[O:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH2:1]1[CH2:2][C:9]([C:10]([CH3:11])=[O:12])([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[O:8][C:6]1([C:4]([CH3:3])=[O:5])[CH3:7],water,298.15,9.78784222925632,-50.813186713877286
4111,4705,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([N+:16]#[C:17][C:18]#[N:19])[C:20]([CH3:21])=[O:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18]#[N:19])=[N:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:20]([CH3:21])=[O:22],water,298.15,6.003030132669179,-32.86705434683016
419,457,[CH3:11][N:12]=[N+:13]([CH3:14])[N-:15][C:16](=[O:17])[O:18][CH3:19].[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[N:12]([CH3:11])[N:13]([CH3:14])[N:15]3[C:16](=[O:17])[O:18][CH3:19],water,298.15,26.371043836216423,-28.18689567904168
487,533,[CH3:16][C-:17]([CH3:18])[O+:19]=[CH:20][C:21]#[N:22].[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[N:1]#[C:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:17]([CH3:16])([CH3:18])[O:19][CH:20]2[C:21]#[N:22],water,298.15,12.800006349836991,-35.494431880158416
2013,2236,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([C:21]#[N:22])[O+:23]=[C:24]([C:25]#[N:26])[C:27](=[O:28])[O:29][CH3:30].[CH3:1][O:2][C:3]1([C:4]([CH3:5])=[O:6])[C:7]#[C:8][C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3]1([C:4]([CH3:5])=[O:6])[C:7]2=[C:8]([C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:21]#[N:22])[O:23][C:24]2([C:25]#[N:26])[C:27](=[O:28])[O:29][CH3:30],water,298.15,12.890634443029576,-67.941313335335
4447,5079,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([C:17]#[N:18])=[N:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,17.524540204227822,-32.704956442597606
222,242,[CH3:10][N-:11][N+:12]#[C:13][C:14](=[O:15])[NH:16][CH3:17].[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[F:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[N:11]([CH3:10])[N:12]=[C:13]2[C:14](=[O:15])[NH:16][CH3:17],water,298.15,27.08016100971294,-54.84045528656448
